US09428510B2
3-amino-6-(3,5-difluorobenzylthio)picolinamide
A mixture of 6-(3,5-difluorobenzylthio)-3-nitropicolinonitrile (0.05 g, 0.163 mmol) and PtO2 (0.739 mg, 3.25 μmol) in 10 ml of MeOH is placed under stirring at atmospheric pressure of hydrogen for 2 hours. The catalyst is filtered, the solution is concentrated and the residue thus obtained is purified by silica gel chromatography (AcOEt/heptane) to yield, after concentration, 0.04 g (83%) of white crystals.

reactant | 6-(3,5-difluorobenzylthio)-3-nitropicolinonitrile | 0.163 mmol, 0.05 g | FC=1C=C(CSC2=CC=C(C(=N2)C#N)[N+](=O)[O-])C=C(C1)F | C13H7F2N3O2S
reactant | hydrogen | [H][H] | H2
reactant | MeOH | 10 ml | CO | CH4O
catalyst | PtO2 | 3.25 μmol, 0.739 mg | O=[Pt]=O
product | 3-amino-6-(3,5-difluorobenzylthio)picolinamide | NC=1C(=NC(=CC1)SCC1=CC(=CC(=C1)F)F)C(=O)N | C13H11F2N3OS
